US08710038B2
N-{4-[3-(1H-Benzimidazol-2-yl)-1H-pyrazol-5-yl]phenyl}-N′-phenylurea:
Triethylamine (35 μL, 0.25 mmol) was added to a suspension of 4-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-5-yl]aniline (20 mg, 0.064 mmol) and phenyl isocyanate (7.6 mg, 0.064 mmol) in anhydrous acetonitrile (1.0 mL) at room temperature. After twelve hours the reaction was concentrated in vacuo and purified on reverse phase HPLC using water-acetonitrile gradient (0.1% TFA) to provide the title compound (9 mg, 36% yield) as a white solid: 1H NMR (400 MHz, DMSO-d6): δ 9.08 (s, 1H), 8.92 (s, 1H), 7.78 (m, 4H), 7.63 (m, 2H), 7.48 (m, 4H), 7.40 (s, 1H), 7.30 (m, 2H), 7.00 (m, 1H); MS (EI) for C23H18N6O: 395.2 (MH+).

reactant | Triethylamine | 0.25 mmol, 35 μL | C(C)N(CC)CC | C6H15N
reactant | 4-[3-(1H-benzimidazol-2-yl)-1H-pyrazol-5-yl]aniline | 0.064 mmol, 20 mg | N1C(=NC2=C1C=CC=C2)C2=NNC(=C2)C2=CC=C(N)C=C2 | C16H13N5
reactant | phenyl isocyanate | 0.064 mmol, 7.6 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | N-{4-[3-(1H-Benzimidazol-2-yl)-1H-pyrazol-5-yl]phenyl}-N′-phenylurea | 9 mg, 36% yield | N1C(=NC2=C1C=CC=C2)C2=NNC(=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C23H18N6O
